US03985730
A solution of 28 parts of 10-[2-diisopropylamino)ethyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile in a minimal amount of anhydrous ether is acidified with a 20% solution of hydrogen chloride in anhydrous ether. The white solid which precipitates is filtered off, dried in vacuo at 60°-70°, and then recrystallized from absolute ethanol to give 10-[2-(diisopropylamino)ethyl]-5-ethyl-10,11-dihydro-5 H-dibenz[b,f]azepine-10-carbonitrile hydrochloride melting at 230°-233°.

reactant | 5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile | C(C)N1C2=C(CC(C3=C1C=CC=C3)C#N)C=CC=C2 | C17H16N2
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 10-[2-(diisopropylamino)ethyl]-5-ethyl-10,11-dihydro-5 H-dibenz[b,f]azepine-10-carbonitrile hydrochloride | Cl.C(C)(C)N(CCC1(CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2)C#N)C(C)C | InChI=1S/C25H33N3.ClH/c1-6-27-23-13-9-7-11-21(23)17-25(18-26,22-12-8-10-14-24(22)27)15-16-28(19(2)3)20(4)5;/h7-14,19-20H,6,15-17H2,1-5H3;1H
